US05892040
A suspension of 4.92 g (15 mmol) of 3-(2-formyl-2-methylhydrazino)-2-(2,3,4,5-tetrafluorobenzoyl)acrylic acid ethyl ester and 3.41 ml (30.1 mmol) of N-methyl-piperazine in 15 ml of toluene were heated at reflux for 7.5 hours after which a clear, yellow solution was formed. After the addition of further 2.08 ml of N-methyl-piperazine the mixture was heated for 2 hours, cooled and evaporated at 49° C./130 torr. The yellowish oil (13.7 g) was taken up in 30 ml of dichloromethane, washed with 50 ml of water and subsequently twice with each 7.5 ml of half-saturated brine. The aqueous extracts were washed twice with each 15 ml of dichlormethane, the organic phases united, dried over magnesium sulphate, filtered and evaporated at 47° C./20 torr. The crystalline, beige residue (6.1 g) was suspended in 40 ml of tert.-butylmethyl ether, vigorously digested for 50 min., the crystals filtered, washed twice with each 10 ml of tert.-butylmethyl ether and dried at 45° C./13 torr. 5.41 g (88%) of 6,8-difluoro-1,4-dihydro-1-(N-methylformamido)7-(4-methyl- 1-piperazinyl)-4-oxo-3-quinoline-carboxylic acid ethyl ester were obtained as beige crystals of mp 180° C.

reactant | 3-(2-formyl-2-methylhydrazino)-2-(2,3,4,5-tetrafluorobenzoyl)acrylic acid ethyl ester | 15 mmol, 4.92 g | C(C)OC(C(=CNN(C)C=O)C(C1=C(C(=C(C(=C1)F)F)F)F)=O)=O | C14H12F4N2O4
reactant | N-methyl-piperazine | 30.1 mmol, 3.41 ml | CN1CCNCC1 | C5H12N2
reactant | N-methyl-piperazine | 2.08 ml | CN1CCNCC1 | C5H12N2
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | 6,8-difluoro-1,4-dihydro-1-(N-methylformamido)7-(4-methyl- 1-piperazinyl)-4-oxo-3-quinoline-carboxylic acid ethyl ester | 5.41 g, 88% | C(C)OC(=O)C1=CN(C2=C(C(=C(C=C2C1=O)F)N1CCN(CC1)C)F)N(C=O)C | C19H22F2N4O4
